US04614819
To 330 ml of water were added 38.0 g of sodium nitrite and 66.1 g of 3-oxothiobutyric acid-S-methyl ester, and 210 ml of 4N sulfuric acid was added dropwise to the resulting mixture with stirring at 5°-8° C. over a period of 30 minutes. After completion of the dropwise addition, the resulting mixture was subjected to reaction at the same temperature for 30 minutes, and the reaction mixture was introduced into 500 ml of ethyl acetate. The organic layer was separated, washed with 500 ml of water and dried over anhydrous magnesium sulfate, and the organic solvent was removed by distillation under reduced pressure. The residue obtained was dissolved in 650 ml of an aqueous solution containing 106 g of sodium carbonate, and then 150 ml of methanol was added to the resulting solution. To the resulting solution was added dropwise 75.7 g of dimethyl sulfate at 15°-20° C., and then the resulting mixture was subjected to reaction at the same temperature for 2 hours. Then, the reaction mixture was introduced into 1 liter of ethyl acetate, and thereafter the organic layer was separated, washed with 300 ml of water and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue obtained was distilled under reduced pressure to obtain 60.4 g (yield, 68.9%) of 2-methoxyimino-3-oxothiobutyric acid-S-methyl ester (mixture of syn- and anti-isomers) having a boiling point of 80°-86° C./2 mmHg.

reactant | sodium nitrite | 38.0 g | N(=O)[O-].[Na+]
reactant | 3-oxothiobutyric acid-S-methyl ester | 66.1 g | CSC(CC(C)=O)=O | C5H8O2S
reactant | sulfuric acid | 4N, 210 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 106 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl sulfate | 75.7 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
solvent | methanol | 150 ml | CO | CH4O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 330 ml | O | H2O
product | 2-methoxyimino-3-oxothiobutyric acid-S-methyl ester | 60.4 g, 68.9% | CSC(C(C(C)=O)=NOC)=O | C6H9NO3S
